US08614226B2
A slurry of 500 mg (1.21 mmol) 4-(5-bromo-pyridin-3-yl)-2-(5-chloro-2-fluoro-phenyl)-[1,8]naphthyridine, 370 mg (1.33 mmol) dimethyl-{3-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyrazol-1-yl]propyl}-amine and 512 mg (2.41 mmol) tri-potassium-phosphate-trihydrate in 5 ml 1,2-dimethoxyethane is heated to 85° C. under nitrogen. Then 42.3 mg (0.06 mmol) bis-(triphenylphosphine)-palladium(II)-chloride and 17 μl triethylamine were added. The reaction mixture was stirred for 2 hours at 85° C. The reaction mixture was partitioned between water and dichloromethane. The organic phase was dried over sodium sulfate and evaporated. The residue was crystallized from acetonitrile yielding [3-(4-{5-[2-(5-chloro-2-fluoro-phenyl)-[1,8]naphthyridin-4-yl]-pyridin-3-yl}-pyrazol-1-yl)-propyl]-dimethyl-amine as light grey crystals; HPLC-MS: 1.64 min, [M+H] 487. 1H NMR (500 MHz, DMSO) δ=9.21 (dd, J=4.1, 1.8, 1H), 9.05 (d, J=2.1, 1H), 8.63 (d, J=2.0, 1H), 8.41 (s, 1H), 8.37 (dd, J=8.4, 1.8, 1H), 8.28 (t, J=2.1, 1H), 8.18 (dd, J=6.6, 2.8, 1H), 8.10 (m, 2H), 7.72 (dd, J=8.4, 4.2, 1H), 7.68 (ddd, J=8.7, 4.0, 3.0, 1H), 7.52 (dd, J=10.6, 8.9, 1H), 4.16 (t, J=7.0, 2H), 2.22 (t, J=6.7, 2H), 2.14 (s, 6H), 1.94 (p, J=7.0, 2H).

reactant | 4-(5-bromo-pyridin-3-yl)-2-(5-chloro-2-fluoro-phenyl)-[1,8]naphthyridine | 1.21 mmol, 500 mg | BrC=1C=C(C=NC1)C1=CC(=NC2=NC=CC=C12)C1=C(C=CC(=C1)Cl)F | C19H10BrClFN3
reactant | dimethyl-{3-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyrazol-1-yl]propyl}-amine | 1.33 mmol, 370 mg | CN(CCCN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C)C | C14H26BN3O2
reactant | tri-potassium-phosphate-trihydrate | 2.41 mmol, 512 mg | O.O.O.P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | triethylamine | 17 μl | C(C)N(CC)CC | C6H15N
solvent | 1,2-dimethoxyethane | 5 ml | COCCOC | C4H10O2
catalyst | bis-(triphenylphosphine)-palladium(II)-chloride | 0.06 mmol, 42.3 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | [3-(4-{5-[2-(5-chloro-2-fluoro-phenyl)-[1,8]naphthyridin-4-yl]-pyridin-3-yl}-pyrazol-1-yl)-propyl]-dimethyl-amine | ClC=1C=CC(=C(C1)C1=NC2=NC=CC=C2C(=C1)C=1C=C(C=NC1)C=1C=NN(C1)CCCN(C)C)F | C27H24ClFN6
